### PR TITLE
Add Erdős Problem 300 (largest set with no subset of reciprocal sum 1), link the formal proof

### LINKED ISSUE #6209: Erdős Problem 300
### What is the Erdős problem?

https://www.erdosproblems.com/300

Let $A(N)$ denote the maximal cardinality of $A\subseteq \{1,\ldots,N\}$ such that $\sum_{n\in S}\frac{1}{n}\neq 1$ for all $S\subseteq A$. Estimate $A(N)$.

Status: solved (Lean). Liu–Sawhney proved $A(N) = (1 - 1/e + o(1))N$ (refuting the Erdős–Graham guess $A(N) = (1+o(1))N$, already disproved by Croot); a formal proof exists in plby/lean-proofs (`Erdos300.erdos_300`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6209.

### What changed
Adds `FormalConjectures/ErdosProblems/300.lean` with `A N` (largest `B ⊆ {1, …, N}` no subset of which has reciprocal sum `1`) and:
- `erdos_300` (`research solved`): `A(N)/N → 1 − 1/e` (Liu–Sawhney [LiSa24]).
- `erdos_300.variants.erdos_graham` (`answer(False)`): the Erdős–Graham guess `A(N) = (1 + o(1)) N`, disproved by Croot [Cr03].

Both linked to plby/lean-proofs `Erdos300.erdos_300` (Codex and GPT-5.6 Sol; 25 Mathlib-only files, on top of Bloom–Mehta's unit fractions development).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos300.erdos_300` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against both statements on top of a renamed copy, same axioms (plby's `erdos300Max` is a `Finset.sup`; the `sSup` here agrees; uniqueness of limits gives the second):

<details>
<summary>Bridge</summary>

```lean
open Filter Topology

namespace Bridge300

lemma A_eq (N : ℕ) : Erdos300.A N = Erdos300Plby.erdos300Max N := by
  classical
  unfold Erdos300.A
  apply le_antisymm
  · apply csSup_le'
    rintro m ⟨B, hB, hone, rfl⟩
    exact Erdos300Plby.card_le_erdos300Max hB hone
  · have hne : (Erdos300Plby.candidateSets N).Nonempty := by
      refine ⟨∅, ?_⟩
      simp only [Erdos300Plby.candidateSets, Finset.mem_filter, Finset.mem_powerset,
        Finset.empty_subset, true_and]
      intro B hB
      rw [Finset.subset_empty.1 hB]
      simp [UnitFractions.rec_sum]
    obtain ⟨B, hB, hcard⟩ := Finset.exists_mem_eq_sup _ hne Finset.card
    simp only [Erdos300Plby.candidateSets, Finset.mem_filter, Finset.mem_powerset] at hB
    refine le_csSup ⟨N, ?_⟩ ⟨B, hB.1, fun S hS => by simpa [UnitFractions.rec_sum] using hB.2 S hS, ?_⟩
    · rintro m ⟨C, hC, -, rfl⟩
      simpa using Finset.card_le_card hC
    · unfold Erdos300Plby.erdos300Max
      rw [hcard]

theorem erdos_300_bridge : type_of% Erdos300.erdos_300 := by
  simpa only [A_eq] using Erdos300Plby.erdos_300

theorem erdos_graham_bridge : type_of% Erdos300.erdos_300.variants.erdos_graham := by
  show False ↔ _
  simp only [false_iff]
  intro h
  have := tendsto_nhds_unique h erdos_300_bridge
  have hexp : 1 < Real.exp 1 := by
    have := Real.add_one_lt_exp (one_ne_zero (α := ℝ)); linarith
  have : (0 : ℝ) < 1 / Real.exp 1 := by positivity
  linarith

end Bridge300
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«300»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/300.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/300.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
